US05776983
To a 0° C. THF (70 mL) solution of methyl 6-methoxynicotinate (6.0 g, 36 mmol) was added 36 mL of 1M LAH/THF. The reaction, after stirring at 20° C. for two hours, was quenched with aq. NH4Cl, diluted with aq. HCl until all salts dissolved, and extracted with EtOAc (3×) after adjusting the pH to 5. The crude 4-hydroxymethyl-2-methoxypyridine (1.75 g), obtained after drying and concentration of the EtOAc layers, was converted to 4-methoxy-3-pyridinylcarboxaldehyde following the procedure described in step A of Example 123. The title compound was prepared from 4-methoxy-3-pyridinylcarboxaldehyde following the procedure described in step A of Example 119.

reactant | methyl 6-methoxynicotinate | 36 mmol, 6.0 g | COC1=NC=C(C(=O)OC)C=C1 | C8H9NO3
reactant | LAH THF | 1M, 36 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3].C1CCOC1
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 4-hydroxymethyl-2-methoxypyridine | 1.75 g | OCC1=CC(=NC=C1)OC | C7H9NO2
